US05747621
A suspension of anhydrous cerium chloride (43.9 g, 178.0 mmol) in THF (250 mL) was stirred at room temperature for 2 hours under nitrogen. 4-Fluorophenylmagnesium bromide (75.6 mL of 2.0M solution in diethyl ether, 151.2 mmol) was added at 0° C. and stirred for 3.5 h. A solution of 2-indanone (15.36 g, 116.4 mmol) in THF (20 mL) was added at the same temperature. After stirring at 0° C. for 3 h, the mixture was allowed to warm to room temperature and kept at ambient temperature overnight (12 h). It was then treated with 5% aqueous hydrochloric solution. The solution was extracted with diethyl ether (4*200 mL). All etheral layers were combined, washed with water (100 mL), dried over anhydrous magnesium sulphate and concentrated to give the crude product. Unreacted 2-indanone was distilled off. The residue was subjected to Kugelrohr distillation (165° C./0.3 mm Hg). 2-(4-Fluorophenyl)-2-indanol (21.62 g) was obtained in pure form. 1 H-N.M.R. (CDCl3) d 2.22 (br s, 1H), d 3.24 (d, J=16.3 Hz, 2H), d 3.47 (d, J=16.3 Hz, 2H), d 7.04 (m, 2H), d 7.20-7.28(m, 4H), d 7.52(br d, J=9.0, 5.3 Hz, 2H).

reactant | cerium chloride | 178.0 mmol, 43.9 g | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | 4-Fluorophenylmagnesium bromide | 151.2 mmol, 2.0M, 75.6 mL | FC1=CC=C(C=C1)[Mg]Br
reactant | 2-indanone | 116.4 mmol, 15.36 g | C1C(CC2=CC=CC=C12)=O | C9H8O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(4-Fluorophenyl)-2-indanol | 21.62 g | FC1=CC=C(C=C1)C1(CC2=CC=CC=C2C1)O | C15H13FO
